US06953787B2
N-Trifluoroacetyl-1-hydroxymethyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-7-methoxy-1-methylene-2,3,4,5-tetrahydro-1H-3-benzazepine (0.100 g, 0.35 mmol) in tetrahydrofuran (1 mL) was treated with BH3-THF complex (0.36 mL, 1 M in THF), and stirred for 30 min. at 20 C. Water (0.5 mL), saturated aqueous NaHCO3 (0.5 mL), and 30% H2O2 (0.2 mL) were added sequentially and the reaction stirred for 30 min. at 20 C. The product mixture was diluted with EtOAc (10 mL), washed with brine (10 mL), and concentrated. Flash chromatography (33% EtOAc in hexane, silica) resulted in 0.035 g of a clear oil. MS calculated for C14H16F3NO3+H: 304, observed: 304.

reactant | N-trifluoroacetyl-7-methoxy-1-methylene-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.35 mmol, 0.100 g | FC(C(=O)N1CCC2=C(C(C1)=C)C=CC(=C2)OC)(F)F | C14H14F3NO2
reactant | BH3-THF | 1 M, 0.36 mL | B.C1CCOC1
reactant | NaHCO3 | 0.5 mL | C(=O)(O)[O-].[Na+]
reactant | H2O2 | 0.2 mL | OO | H2O2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | Water | 0.5 mL | O | H2O
product | N-Trifluoroacetyl-1-hydroxymethyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.035 g | FC(C(=O)N1CCC2=C(C(C1)CO)C=CC(=C2)OC)(F)F | C14H16F3NO3
